US09062034B2
(a) tert.butyl(R)—N-[2-(3-methoxycarbonyl-prop-2-enyloxy)-1-methyl-1-(3-methyl-2,3,4,5-tetrahydro-1H-benzo[d]azepin-7-ylcarbamoyl)-ethyl]-carbamate
A mixture of 120 mg (0.226 mmol) tert.butyl(R)—N-[2-(prop-2-enyloxy)-1-methyl-1-(3-methyl-2,3,4,5-tetrahydro-1H-benzo[d]azepin-7-ylcarbamoyl)ethyl]-carbamate (prepared from (R)—O-allyl-α-methyl-N-butoxycarbonylserine and 3-methyl-2,3,4,5-tetrahydro-1H-benzo[d]azepin-7-ylamine) in methylene chloride is rinsed for 30 min with argon, combined with 0.42 ml (4.66 mmol) methyl acrylate and 2nd generation Grubbs catalyst and heated to boiling for 4 h. Then the mixture is concentrated by evaporation and purified by chromatography.

reactant | tert.butyl(R)—N-[2-(prop-2-enyloxy)-1-methyl-1-(3-methyl-2,3,4,5-tetrahydro-1H-benzo[d]azepin-7-ylcarbamoyl)ethyl]-carbamate | 0.226 mmol, 120 mg | C(C=C)OC[C@@](C(NC1=CC2=C(CCN(CC2)C)C=C1)=O)(C)NC(OC(C)(C)C)=O | C23H35N3O4
reactant | methyl acrylate | 4.66 mmol, 0.42 ml | C(C=C)(=O)OC | C4H6O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | 2nd generation Grubbs catalyst | Cl[Ru]([P](C1CCCCC1)(C2CCCCC2)C3CCCCC3)(=CC4=CC=CC=C4)(Cl)=C5N(C6=C(C)C=C(C)C=C6C)CCN5C7=C(C)C=C(C)C=C7C
product | tert.butyl(R)—N-[2-(3-methoxycarbonyl-prop-2-enyloxy)-1-methyl-1-(3-methyl-2,3,4,5-tetrahydro-1H-benzo[d]azepin-7-ylcarbamoyl)-ethyl]-carbamate | COC(=O)C=CCOC[C@@](C(NC1=CC2=C(CCN(CC2)C)C=C1)=O)(C)NC(OC(C)(C)C)=O | C25H37N3O6
